US07947706B2
To a solution of 130 mg of 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide in 5 mL of tetrahydrofuran are added dropwise 85 μL of 2-fluoro-5-(trifluoromethyl)phenyl isocyanate. The reaction mixture is then stirred for 16 hours at room temperature under an argon atmosphere and then concentrated under reduced pressure. The residue obtained is chromatographed on a column of silica (eluent: 9/1 dichloromethane/methanol by volume). The fractions containing the expected product are concentrated under reduced pressure. 237 mg of 3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide are obtained in the form of a white solid, the characteristics of which are as follows:

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | 130 mg | NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N | C14H12N4O
reactant | 2-fluoro-5-(trifluoromethyl)phenyl isocyanate | 85 μL | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrolo[2,3-b]pyridine-2-carboxamide | 237 mg | FC1=C(C=C(C=C1)C(F)(F)F)NC(NC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)N)=O | C22H15F4N5O2
